US07994203B2
3-(4-(1H-imidazol-1-yl)-2-methylphenyl)-7-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2,6-dimethylpyrazolo[5,1-b]oxazole
3-(4-Bromo-2-methylphenyl)-7-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2,6-dimethyl pyrazolo[5,1-b]oxazole (Ex. 6.41) (40 mg, 0.100 mmol), 4,7-dimethoxy-1,10-phenanthroline (24.01 mg, 0.100 mmol), 1H-imidazole (8.16 mg, 0.120 mmol), Cu2O (0.715 mg, 5.00 μmol) and Cs2CO3 (45.6 mg, 0.140 mmol) are added to NMP (2 ml) and stirred at 110° C. for 5 days.

reactant | 3-(4-Bromo-2-methylphenyl)-7-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2,6-dimethyl pyrazolo[5,1-b]oxazole | 0.100 mmol, 40 mg | BrC1=CC(=C(C=C1)C=1N2C(OC1C)=C(C(=N2)C)N2N=C(N=C2C)C)C | C18H18BrN5O
reactant | 4,7-dimethoxy-1,10-phenanthroline | 0.100 mmol, 24.01 mg | COC1=CC=NC2=C3N=CC=C(C3=CC=C12)OC | C14H12N2O2
reactant | 1H-imidazole | 0.120 mmol, 8.16 mg | N1C=NC=C1 | C3H4N2
reactant | Cs2CO3 | 0.140 mmol, 45.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 3-(4-(1H-imidazol-1-yl)-2-methylphenyl)-7-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2,6-dimethylpyrazolo[5,1-b]oxazole | N1(C=NC=C1)C1=CC(=C(C=C1)C=1N2C(OC1C)=C(C(=N2)C)N2N=C(N=C2C)C)C | C21H21N7O
